US06743918B2
To a solution of 9-hydroxycamptothecin (9-HC; 300 mg, 0.82 mmol) in N,N-dimethylformamide (15 ml), triethylamine (0.68 ml, 4.92 mmol. 6.0 eq.) and N-phenyl trifluoromethanesulfonimide (879 mg, 2.46 mmol, 3.0 eq.) were added, and the mixture was stirred at 60° C. for 0.5 hr under argon gas atmosphere. After confirmation of the disappearance of the starting material by thin layer chromatography (chloroform:methanol=20:1), this reaction solution was added with triethylamine (1.14 ml, 8.20 mmol. 10.0 eq.), dichlorobis(triphenylphosphine)palladium (58 mg, 0.08 mmol, 10 mol %), formic acid (189 mg, 4.10 mmol, 5.0 eq.) and heated at 60° C. for 3 hr. After the disappearance of 9-OTfC was confirmed by thin layer chromatography (chloroform:methanol=50:1), and the reaction mixture was cooled, followed by evaporation of the solvent under reduced pressure. The residue was added with chloroform (5 ml) and n-hexane (200 ml) and the resulting precipitate was taken by suction filtration to give camptothecin (CPT) (209 mg, yield 73%) as a yellow solid.

reactant | 9-hydroxycamptothecin | 0.82 mmol, 300 mg | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)NC5=CC=CC(=O)C5=C4)O | C20H16N2O5
reactant | triethylamine | 4.92 mmol, 0.68 ml, 6.0 eq. | C(C)N(CC)CC | C6H15N
reactant | N-phenyl trifluoromethanesulfonimide | 2.46 mmol, 879 mg, 3.0 eq. | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 8.20 mmol, 1.14 ml, 10.0 eq. | C(C)N(CC)CC | C6H15N
reactant | formic acid | 4.10 mmol, 189 mg, 5.0 eq. | C(=O)O | CH2O2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.08 mmol, 58 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | camptothecin | 209 mg, yield 73% | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C=CC=CC5=NC4C3=C2)O | C20H16N2O4
